US06531478B2
A mixture of methyl-4-(cyanoacetyl)benzoate (5.0 g, 24.6 mmol) and phenylhydrazine (2.42 ml, 24.6 mmol) in ethanol (100 ml) was heated to reflux for 20 hours. The mixture was cooled and the product was collected by filtration. The product was purified by trituration in hot acetonitrile, cooled and collected by filtration to give the product 4-(5-amino-1-phenyl-1H-pyrazole-3-yl)-benzoic acid methyl ester as a colorless solid.

reactant | methyl-4-(cyanoacetyl)benzoate | 24.6 mmol, 5.0 g | COC(C1=CC=C(C=C1)C(CC#N)=O)=O | C11H9NO3
reactant | phenylhydrazine | 24.6 mmol, 2.42 ml | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(5-amino-1-phenyl-1H-pyrazole-3-yl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C1=NN(C(=C1)N)C1=CC=CC=C1)=O | C17H15N3O2
